US05387685
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-7-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile hydrochloride
To a solution of 0.8 g of α-(3,4-dimethoxyphenyl)-3,4-dihydro-7-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile in 100 mL of diethyl ether and 5 mL of ethyl alcohol is added 0.83 mL of 4.5M hydrochloric acid in ethyl alcohol. The solution is stirred for 20 minutes and the white precipitate is collected and washed three times with small portions of diethyl ether. The solid is dried in vacuo affording 0.84 g of the desired product as a white solid.

reactant | α-(3,4-dimethoxyphenyl)-3,4-dihydro-7-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile | 0.8 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)OCCN1C=NC=C1)SC1=CC=C(C=C1)C | C37H44N4O4S
reactant | hydrochloric acid | 4.5M, 0.83 mL | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-7-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile hydrochloride | 0.84 g | Cl.COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)OCCN1C=NC=C1)SC1=CC=C(C=C1)C | InChI=1S/C37H44N4O4S.ClH/c1-28-8-11-32(12-9-28)46-37(26-38,31-10-13-33(42-2)35(24-31)44-4)15-6-5-7-17-40-18-14-29-22-34(43-3)36(23-30(29)25-40)45-21-20-41-19-16-39-27-41;/h8-13,16,19,22-24,27H,5-7,14-15,17-18,20-21,25H2,1-4H3;1H
